US08791132B2
A solution of 1-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-(6-methoxy-pyridin-3-yl)-propan-2-ol (100 mg, 0.27 mmol) in 3N HCl (4 mL) was stirred at 100° C. for 4 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by reverse phase HPLC to yield 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-1-methyl-ethyl]-pyridin-2-ol. 1H NMR (CD3OD, freebase) δ (ppm): 7.58 (d, 1H), 7.2 (s, 1H), 7.1 (s, 1H), 7.0 (d, 1H), 6.8 (d, 1H), 6.4 (d, 1H), 4.6 (bs, 1H), 4.17 (m, 2H), 4.0 (m, 2H), 3.1-3.25 (m, 2H), 2.97 (m, 1H), 2.8 (s, 3H), 2.4 (s, 3H), 1.6 (s, 3H). Separation by chiral HPLC provides enantiomers II-80a-b.

reactant | 1-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2-(6-methoxy-pyridin-3-yl)-propan-2-ol | 0.27 mmol, 100 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C=NC(=CC2)OC)CC1 | C22H27N3O2
solvent | HCl | 3N, 4 mL | Cl | ClH
product | 5-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-1-methyl-ethyl]-pyridin-2-ol | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C=CC(=NC2)O)CC1 | C21H25N3O2
